US04898867
A 0.6 g quantity of 3-(4-chlorobenzyl)-5,6-dimethylthieno[2,3-d]pyrimidin-2,4(1H,3H)-dione (Compound III-1) was dissolved in 20 ml of anhydrous N,N-dimethylformamide. To the solution were added at room temperature 0.1 g of 50% sodium hydride and then 0.4 g of ethyl bromoacetate. The mixture was stirred at room temperature for 17 hours, concentrated and acidified by adding diluted hydrochloric acid with ice-cooling. The crystals precipitated were collected by filtration and recrystallized from ethanol, giving 0.7 g of 3-(4-chlorobenzyl)-1-ethoxycarbonylmethyl-5,6-dimethylthieno[2,3-d]pyrimidin-2,4(1H,3H)-dione having a melting point of 151° to 152° C. in a yield of 92%.

reactant | 3-(4-chlorobenzyl)-5,6-dimethylthieno[2,3-d]pyrimidin-2,4(1H,3H)-dione | ClC1=CC=C(CN2C(NC3=C(C2=O)C(=C(S3)C)C)=O)C=C1 | C15H13ClN2O2S
reactant | sodium hydride | 0.1 g | [H-].[Na+]
reactant | ethyl bromoacetate | 0.4 g | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-(4-chlorobenzyl)-1-ethoxycarbonylmethyl-5,6-dimethylthieno[2,3-d]pyrimidin-2,4(1H,3H)-dione | 0.7 g, yield of 92% | ClC1=CC=C(CN2C(N(C3=C(C2=O)C(=C(S3)C)C)CC(=O)OCC)=O)C=C1 | C19H19ClN2O4S
